US06509328B1
8-(4-Fluoro-phenylethynyl)-4-(3-tetrazol-1-yl-phenyl)-1,3-dihydro-benzo [b][1,4]diazepin-2-one
Prepared from [2-amino-4-(4-fluoro-phenylethynyl)-phenyl]-carbamic acid tert.-butyl ester (Example G33) and 3-oxo-3-(3-tetrazol-1-yl-phenyl)-propionic acid ethyl ester (Example H15) according to the general procedure K. The obtained material was deprotected and cyclized by treatment with TFA in CH2Cl2 according to the general procedure M. Obtained as a beige powder (5.5 mg).

reactant | [2-amino-4-(4-fluoro-phenylethynyl)-phenyl]-carbamic acid tert.-butyl ester | C(C)(C)(C)OC(NC1=C(C=C(C=C1)C#CC1=CC=C(C=C1)F)N)=O | C19H19FN2O2
reactant | 3-oxo-3-(3-tetrazol-1-yl-phenyl)-propionic acid ethyl ester | C(C)OC(CC(C1=CC(=CC=C1)N1N=NN=C1)=O)=O | C12H12N4O3
reactant | TFA | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | CH2Cl2 | C(Cl)Cl | CH2Cl2
product | 8-(4-Fluoro-phenylethynyl)-4-(3-tetrazol-1-yl-phenyl)-1,3-dihydro-benzo [b][1,4]diazepin-2-one | 5.5 mg | FC1=CC=C(C=C1)C#CC=1C=CC2=C(NC(CC(=N2)C2=CC(=CC=C2)N2N=NN=C2)=O)C1 | C24H15FN6O
